US05849912
Synthesis of 2-chloro-3-bromo-5-nitrobenzoyl chloride
5.1 ml (69.9 mmol) of thionyl chloride and a solvent mixture comprising 50 ml of benzene and 0.2 ml of DMF were added to 14.07 g (50.2 mmol) of 2-chloro-3-bromo-5-nitrobenzoic acid. The obtained mixture was heated under reflux for 2 hours and distilled to remove the solvent. Benzene was added to the residue and the obtained mixture was distilled again to remove the solvent. Thus, 15.07 g of the title compound was obtained (yield: quantitative).

reactant | thionyl chloride | 69.9 mmol, 5.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | 2-chloro-3-bromo-5-nitrobenzoic acid | 50.2 mmol, 14.07 g | ClC1=C(C(=O)O)C=C(C=C1Br)[N+](=O)[O-] | C7H3BrClNO4
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | 2-chloro-3-bromo-5-nitrobenzoyl chloride | 15.07 g, yield: quantitative | ClC1=C(C(=O)Cl)C=C(C=C1Br)[N+](=O)[O-] | C7H2BrCl2NO3
